US08207342B2
11 ml of BuLi (1M in hexane) were added dropwise at −78° C. to a solution of 1.9 ml (11 mmol) of DIPEA in THF (77 ml). After stirring for 30 min at −78° C., a solution of 2.31 g (10 mmol) of 2-chloro-7-(trifluoromethyl)quinoline in THF (30 ml) was added and stirring was carried out for a further 30 min at −78° C. The reaction solution was then poured onto finely divided, solid CO2. After heating to RT, most of the THF was removed in vacuo. A 1M aq. NaOH soln. was then added and the phases were separated. The aqueous phase was acidified with 10% hydrochloric acid and extracted with EA. The organic phase was washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. There were obtained as residue 2.12 g (7.7 mmol, 71%) of 2-chloro-7-(trifluoromethyl)quinoline-3-carboxylic acid, which was reacted further without additional purification.

reactant | BuLi | 1M, 11 ml | [Li]CCCC
reactant | DIPEA | 11 mmol, 1.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-7-(trifluoromethyl)quinoline | 10 mmol, 2.31 g | ClC1=NC2=CC(=CC=C2C=C1)C(F)(F)F | C10H5ClF3N
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 77 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-chloro-7-(trifluoromethyl)quinoline-3-carboxylic acid | 7.7 mmol, 2.12 g, 71% | ClC1=NC2=CC(=CC=C2C=C1C(=O)O)C(F)(F)F | C11H5ClF3NO2
